US07576115B2
Synthesis of (3,4-dimethylphenyl)(oxo)acetaldehyde
3,4-dimethylacetophenone (13.52 mmol, 2.0 g) was dissolved in dimethyl sulfoxide (13 mL), and 48% hydrobromic acid (5.4 mL) was gradually added at room temperature. After 16 hours of stirring at 70° C., the reactor was cooled to room temperature. The reaction solution was poured into water and stirred for about 16 hours. The precipitated solid was recovered by filtration, washed with water and dried by means of a vacuum pump to give the desired product as a white solid (1.234 g, yield 57%).

reactant | 3,4-dimethylacetophenone | 13.52 mmol, 2.0 g | CC1=C(C=C(C=C1)C(=O)C)C | C10H12O
reactant | hydrobromic acid | 5.4 mL | Br | BrH
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 13 mL | CS(=O)C | C2H6OS
product | (3,4-dimethylphenyl)(oxo)acetaldehyde | 1.234 g, yield 57% | CC=1C=C(C=CC1C)C(C=O)=O | C10H10O2
